US04816467
Ethyl cyanoacetate (1.4 g) is treated with 50% sodium hydride (0.58 g) in dimethylformamide (10 ml) under stirring at room temperature until the effervescence subsides. To this solution 1,4-dihydro-1-phenyl-[1]-benzothiopyrano[4,3-c]pyrazole-3-carbonyl chloride (3.26 g), prepared according to Example 5, dissolved in dimethylformamide (10 ml) is added under stirring at room temperature. The reaction mixture is allowed to react for 20 hours, then it is diluted with ice water and acidified to pH 3 with 37% HCl. The precipitate is extracted with ethyl acetate and the organic solution washed with water and then evaporated to dryness in vacuo. The residue is purified over a SiO2 column, using hexane-ethyl acetate 80:20 as eluent, to give 2-cyano-3-(1,4-dihydro-1-phenyl-[1]-benzothiopyrano[4,3-c]pyrazol-3-yl)-3-oxo-propanoic acid, ethyl ester (2.4 g), m.p. 176°-178° C., which is reacted with aniline (1.7 g) in xylene (100 ml) at the reflux temperature for 48 hours. After cooling the precipitate is filtered and washed with xylene, then crystallized from dichloromethane/methanol to give 1.5 g of 2 -cyano-3-(1,4-dihydro-1-phenyl-[1]-benzothiopyrano[4,3-c]pyrazol-3-yl)-3-oxo-N-phenyl-propanamide, m.p. 228°-230° C.

reactant | Ethyl cyanoacetate | 1.4 g | C(#N)CC(=O)OCC | C5H7NO2
reactant | sodium hydride | 0.58 g | [H-].[Na+]
reactant | 1,4-dihydro-1-phenyl-[1]-benzothiopyrano[4,3-c]pyrazole-3-carbonyl chloride | 3.26 g | C1(=CC=CC=C1)N1N=C(C2=C1C1=C(SC2)C=CC=C1)C(=O)Cl | C17H11ClN2OS
reactant | HCl | Cl | ClH
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 2-cyano-3-(1,4-dihydro-1-phenyl-[1]-benzothiopyrano[4,3-c]pyrazol-3-yl)-3-oxo-propanoic acid, ethyl ester | 2.4 g | C(#N)C(C(=O)OCC)C(=O)C=1C2=C(N(N1)C1=CC=CC=C1)C1=C(SC2)C=CC=C1 | C22H17N3O3S
